US06169093A
(a) 6-Acetyl-2-methyl-5,6,7,8-tetrahydro-1,6-naphthyridine
To a solution of 2-methyl-5,6,7,8-tetrahydro-1,6-naphthyridine [Shiozawa et al., Chem. Pharm. Bull., 32, 2522, (1984)] (2.73 g, 0.0184 mol) in CH2Cl2 (30 ml) and triethylamine (5.1 ml, 0.0368 mol) was added acetyl chloride (1.57 ml, 0.0221 mol) at 0° C. The reaction mixture was stirred for 24 h at room temperature, after which time the reaction mixture was washed sequentially with saturated aqueous sodium bicarbonate, H2O saturated brine, dried over MgSO4 and evaporated under reduced pressure to afford the subtitle compound (3.27 g, 93%). Rf 0.5 (CH2Cl2/MeOH/0.88NH3 90/10/1, v/v). MS m/z 191 (MH+).

reactant | 2-methyl-5,6,7,8-tetrahydro-1,6-naphthyridine | 0.0184 mol, 2.73 g | CC1=NC=2CCNCC2C=C1 | C9H12N2
reactant | triethylamine | 0.0368 mol, 5.1 ml | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 0.0221 mol, 1.57 ml | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 30 ml | C(Cl)Cl | CH2Cl2
product | 6-Acetyl-2-methyl-5,6,7,8-tetrahydro-1,6-naphthyridine | 3.27 g, 93% | C(C)(=O)N1CC=2C=CC(=NC2CC1)C | C11H14N2O
